US07858613B2
Pentylcarbamic acid 5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl ester
To a solution of 4-hydroxymethyl-3,4-dihydro-2H-benzo[b]thiepin-5-one (264 mg, 1.27 mmol) in 16 ml of tetrahydrofuran were added, at 0° C., triethylamine (0.2 ml, 1.4 mmol) and n-pentyl isocyanate (492 μl, 4.9 mmol). The mixture was heated under reflux for 15 hours, concentrated and purified by column chromatography on silica gel (eluent: 4:1 diisopropyl ether/hexane). The product was obtained in a yield of 145 mg (35%).

reactant | 4-hydroxymethyl-3,4-dihydro-2H-benzo[b]thiepin-5-one | 1.27 mmol, 264 mg | OCC1C(C2=C(SCC1)C=CC=C2)=O | C11H12O2S
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | n-pentyl isocyanate | 4.9 mmol, 492 μl | C(CCCC)N=C=O | C6H11NO
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | Pentylcarbamic acid 5-oxo-2,3,4,5-tetrahydrobenzo[b]thiepin-4-ylmethyl ester | O=C1C2=C(SCCC1COC(NCCCCC)=O)C=CC=C2 | C17H23NO3S
